US04634710
A solution of 183 mg of 2,3-dimethylpyridine 1-oxide in 0.6 ml of concentrated sulfuric acid was treated while cooling with ice with 0.2 ml of 65% nitric acid (d=1.4). The reaction mixture was stirred at 90° for 24 hours and poured on to a mixture of ice and sodium carbonate, whereupon the resulting mixture was extracted with methylene chloride and the methylene chloride phase was dried and evaporated. The residue, crystallized from ethanol/n-pentane, gave 2,3-dimethyl-4-nitropyridine 1-oxide of melting point 99°-102°.

reactant | 2,3-dimethylpyridine 1-oxide | 183 mg | CC1=[N+](C=CC=C1C)[O-] | C7H9NO
reactant | nitric acid | 0.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dimethyl-4-nitropyridine 1-oxide | CC1=[N+](C=CC(=C1C)[N+](=O)[O-])[O-] | C7H8N2O3
